US04643998
6-[5-(1-Imidazolylmethyl)-thien-2-yl]-3-oxo-2-phenyl-2,3,4,5-tetrahydro-pyridazine
A mixture of 2.64 g of 4-[5-(1-imidazolylmethyl)-thien-2-yl]-4-oxobutyric acid, 1.12 g phenylhydrazine, 40 ml water and 40 ml ethanol was stirred for 10 hours under reflux. After cooling the mixture was evaporated, the residue shaken with chloroform/dilute caustic soda solution, the chloroform phase washed with water, dried and evaporated. The residue was recrystallized from diisopropyl ether/ethyl acetate.

reactant | 4-[5-(1-imidazolylmethyl)-thien-2-yl]-4-oxobutyric acid | 2.64 g | N1C(=NC=C1)CC1=CC=C(S1)C(CCC(=O)O)=O | C12H12N2O3S
reactant | phenylhydrazine | 1.12 g | C1(=CC=CC=C1)NN | C6H8N2
reactant | water | 40 ml | O | H2O
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | 6-[5-(1-Imidazolylmethyl)-thien-2-yl]-3-oxo-2-phenyl-2,3,4,5-tetrahydro-pyridazine | N1C(=NC=C1)CC1=CC=C(S1)C=1CCC(N(N1)C1=CC=CC=C1)=O | C18H16N4OS
